US09403798B2
4-[4-(4-Fluoro-3-hydroxyphenyl)-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one
The synthesis was performed using a crude product obtained by synthesis using 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(t rifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one synthesized in Reference Synthesis Example 346 and 5-bromo-2-fluorophenyl acetate in a similar manner to Reference Synthesis Example 139, in a similar manner to Reference Synthesis Example 2 (two step yield 35%).

reactant | 4-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(t rifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | CC1(OB(OC1(C)C)C1=CCN(CC1)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O)C | C20H24BF3N4O3S
reactant | 5-bromo-2-fluorophenyl acetate | C(C)(=O)OC1=C(C=CC(=C1)Br)F | C8H6BrFO2
product | 4-[4-(4-Fluoro-3-hydroxyphenyl)-5,6-dihydropyridin-1(2H)-yl]-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | yield 35% | FC1=C(C=C(C=C1)C1=CCN(CC1)C1=NC(N(C=N1)CC=1SC(=CC1)C(F)(F)F)=O)O | C20H16F4N4O2S
